data/mechanism_extracts/OrgBiomolChem/10.1039_d4ob01327a.json
{"doi": "10.1039_d4ob01327a", "journal": "OrgBiomolChem", "is_review": false, "rxn_class_summary": "Electrochemical aryl-/alkyl-sulfonylation and alkoxysulfonylation of N-tert-butyl-N-allylbenzamides promoted by a radical Truce–Smiles rearrangement to deliver sulfone- and sulfonate-containing β-arylethylamines.", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "paired_electrolysis"], "electrochemical_role": "Anodic SET oxidation of the sulfonyl source (arylsulfonyl hydrazide ArSO2NHNH2 to ArSO2• via -3H+/-N2; or bisulfite/metabisulfite to SO2 then SO2•+); the resulting carbamoyl radical after Truce–Smiles is further anodically oxidized to a carbamoyl cation; cathode performs proton reduction to H2.", "key_intermediates": [{"name": "arylsulfonyl (or methyl) radical Ia (XSO2•, X = Ar, Me)", "smiles": null, "role": "reactive"}, {"name": "sulfur dioxide radical cation Ib (SO2•+) generated from NaHSO3/Na2S2O5 after SET", "smiles": null, "role": "reactive"}, {"name": "γ-sulfonyl β-amino C-centered radical IIa (after addition of ArSO2• to alkene)", "smiles": null, "role": "reactive"}, {"name": "γ-methylsulfonate-ester β-amino C-centered alkyl radical IIb (after SO2•+/MeOH trapping of alkene)", "smiles": null, "role": "reactive"}, {"name": "spirocyclic ipso-cyclohexadienyl radical III (5-exo-trig Truce–Smiles intermediate)", "smiles": null, "role": "transient"}, {"name": "carbamoyl (amidyl-acyl) radical IV after C–C cleavage / aryl migration", "smiles": null, "role": "reactive"}, {"name": "carbamoyl cation V (anodic oxidation of IV)", "smiles": null, "role": "reactive"}, {"name": "dihydrothienopyridinone 4n' from competing 6-endo ortho-addition of the alkyl radical onto thiophene", "smiles": null, "role": "off_pathway"}], "electron_flow": "At the anode, ArSO2NHNH2 (or HSO3-) is oxidized by SET (losing 3H+/N2, or losing e-/Na+) to a sulfonyl radical ArSO2• or SO2•+; this radical adds regioselectively to the terminal alkene of the N-allylbenzamide to give a β-amino C-radical, which undergoes 5-exo-trig ipso-cyclization onto the N-aroyl arene (Truce–Smiles) to a spirocyclic radical that fragments by C–C cleavage to a carbamoyl radical; this carbamoyl radical is oxidized at the anode to a carbamoyl cation trapped by MeOH to give the methyl carbamate product, while protons are reduced to H2 at the Ni cathode.", "rate_determining_step": null, "probe_reagents": [{"name": "cyclic voltammetry of 1a, (4-fluorophenyl)sulfonyl hydrazine, and NaHSO3", "smiles": null, "purpose": "redox_probe", "observation": "Ep/2 = 1.49 V (1a), 0.93 V (ArSO2NHNH2), 0.67 V (NaHSO3) vs Fc+/0 in CH3CN/MeOH 6:4, indicating the sulfur components are oxidized preferentially, initiating the reaction via SET on the sulfonyl source rather than the amide."}, {"name": "control without current (Table 1, entry 15)", "smiles": null, "purpose": "other", "observation": "No product (0% yield), confirming that electrolysis is essential to generate the sulfonyl/SO2-derived radical."}, {"name": "thiophene-substrate 1o (probe for ipso vs ortho selectivity)", "smiles": null, "purpose": "other", "observation": "Gives 4n in only 24% yield together with the 6-endo ortho-addition byproduct 4n' (46%), supporting a radical aryl-migration pathway competitive with cyclization onto the heteroarene."}], "evidence_types_used": ["cyclic_voltammetry", "on/off_light_or_current", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Two parallel pathways are proposed in Scheme 4: path a (aryl-/alkyl-sulfonylation) starts from a sulfonyl radical Ia from ArSO2NHNH2 (or MeSO2 source); path b (methoxy/alkoxysulfonylation) starts from SO2•+ (Ib) released from NaHSO3/Na2S2O5 and trapped by MeOH to install a methyl sulfonate ester. Both converge through the Truce–Smiles spirocyclic intermediate III and a carbamoyl radical/cation (IV→V) trapped by methanol. The bulky N-tBu group is invoked to enforce s-cis amide conformation that favors 5-exo ipso-cyclization over a competing 6-endo ortho-addition (the latter observed only with thiophene substrate 1o, giving dihydrothienopyridinone 4n')."}
